US05770617
(D) 4-Bromophenylenediamine (JSK IV-35)
To 2-nitro-4-bromoaniline (340 mg, 1.57 mmol) in absolute ethanol (20 mL) was added SnCl2 (1.50g, 7.91 mmol) and refluxed overnight. The reaction mixture was then basified to pH 11 with 2N NaOH and extracted with ether to give 275 mg (94%) of product. This product was used without further purification for the synthesis of JSK IV-37.

reactant | 2-nitro-4-bromoaniline | 1.57 mmol, 340 mg | [N+](=O)([O-])C1=C(N)C=CC(=C1)Br | C6H5BrN2O2
reactant | SnCl2 | 7.91 mmol, 1.50g | Cl[Sn]Cl
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-Bromophenylenediamine | 275 mg, 94% | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
